US04323681
A. 4-Amino-5-pyrimidinecarbonitrile
Formamidine acetate (104.11 g., 1.00 mole) and malononitrile (33.03 g., 0.50 mole) are added to a solution of sodium ethoxide prepared from sodium (24.2 g., 1.05 mole) and absolute ethanol (750 ml.) in a nitrogen atmosphere. The mixture is stirred at room temperature for 48 hours. The off-white solid which separates is collected by filtration, washed with ice water then dried at 80° C./house vac. (ca. 200 mm.). The yield of product melting at greater than 340° C. (uncorr.) is 28.5 g. (47.0%). Recrystallization of this material from water (Darco G-60) affords cream-colored needles melting at 250° C. dec. (uncorr.) in a yield of 11.3 g. (18.8%).

reactant | Formamidine acetate | 1.00 mole, 104.11 g | C(C)(=O)O.C(=N)N
reactant | malononitrile | 0.50 mole, 33.03 g | C(CC#N)#N | C3H2N2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.05 mole, 24.2 g | [Na] | Na
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 4-Amino-5-pyrimidinecarbonitrile | NC1=NC=NC=C1C#N | C5H4N4
